US06916798B2
6-(3-Bromo-propoxy)-biphenyl-3-ylamine (r, 250 mg, 0.82 mmol) was diazotized with sodium nitrite (67 mg, 0.98 mmol) in 1:1 water/ethanol and 0.5 mL concentrated HCl at 0° C. After approximately 1 hour, the diazonium solution was added dropwise to a suspension of 5-(3,4-dimethoxy-phenyl)-2,4-dihydro-pyrazol-3-one (200 mg, 0.9 mmol) and sodium acetate (1.1 g) in 10 mL 1:1 water/ethanol. The orange solid which precipitated was filtered and washed with water and dried. The crude product was purified by silica gel chromatography (eluent: 5% methanol/DCM) to afford 120 mg of 4-{[6-(3-bromo-propoxy)-biphenyl-3-yl]-hydrazono}-5-(3,4-dimethoxy-phenyl)-2,4-dihydro-pyrazol-3-one (s): HPLC (Rt) 5.02 min; m/e 536.1, MS (ES+): 538.9; 1H NMR (500 MHz, CDCl3): 13.9 (bs, 1H), 9.0 (bs, 1H), 7.7-6.9 (m, 11H), 4.1 (m, 2H), 3.9 (s, 3H), 3.7 (s, 3H), 3.5 (m, 2H), 3.3 (m, 2H), 2.2 (m, 2H) and 2.1 (m, 2H).

reactant | 6-(3-Bromo-propoxy)-biphenyl-3-ylamine | 0.82 mmol, 250 mg | BrCCCOC1=CC=C(C=C1C1=CC=CC=C1)N | C15H16BrNO
reactant | sodium nitrite | 0.98 mmol, 67 mg | N(=O)[O-].[Na+]
reactant | HCl | 0.5 mL | Cl | ClH
reactant | 5-(3,4-dimethoxy-phenyl)-2,4-dihydro-pyrazol-3-one | 0.9 mmol, 200 mg | COC=1C=C(C=CC1OC)C=1CC(NN1)=O | C11H12N2O3
reactant | sodium acetate | 1.1 g | C(C)(=O)[O-].[Na+]
solvent | water ethanol | O.C(C)O
product | 4-{[6-(3-bromo-propoxy)-biphenyl-3-yl]-hydrazono}-5-(3,4-dimethoxy-phenyl)-2,4-dihydro-pyrazol-3-one | 120 mg | BrCCCOC1=CC=C(C=C1C1=CC=CC=C1)NN=C1C(NN=C1C1=CC(=C(C=C1)OC)OC)=O | C26H25BrN4O4
